US04673746
To a suspension of NaH (2.4 g) in 20 ml DMF, is added a solution of E-2-chloro-2'-fluoro-6-hydroxy-4-methoxybenzophenone O-acetyl oxime (15 g) in 50 ml DMF. After stirring at ambient temperature for two hours, the mixture is poured into one l ice-water, stirred for 30 minutes and a precipitate is collected. The precipitate is washed with water then dried to yield 4-chloro-3-(2-fluorophenyl)-6-methoxy-1,2-benzisoxazole, mp 113°-115° C.

reactant | NaH | 2.4 g | [H-].[Na+]
reactant | E-2-chloro-2'-fluoro-6-hydroxy-4-methoxybenzophenone O-acetyl oxime | 15 g | C(C)(=O)O\N=C(\C1=C(C=C(C=C1O)OC)Cl)/C1=C(C=CC=C1)F | C16H13ClFNO4
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | 4-chloro-3-(2-fluorophenyl)-6-methoxy-1,2-benzisoxazole | ClC1=CC(=CC2=C1C(=NO2)C2=C(C=CC=C2)F)OC | C14H9ClFNO2
